US06586645B2
According to the equation of the process according to the invention, chlorobenzene is reacted with nitric acid to give nitrochlorobenzene and water. Thus, chlorobenzene and nitric acid are introduced into the process, and nitrochlorobenzene and water are discharged, the sulfuric acid/water mixture described being the reaction medium. Since, in the case of industrial implementation, it is advantageous to use dilute nitric acids, the dilution water of the nitric acid must be discharged in addition to the water of the reaction.

reactant | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
product | nitrochlorobenzene | [N+](=O)([O-])C1=C(C=CC=C1)Cl | C6H4ClNO2
